US06015806
Tetrahydropyranyl Ether 4
2-(3-Butynyloxy)tetrahydro-2H-pyran (112.5 g, 0.729 mole) was added dropwise to a solution of methyllithium (500 mL of MeLi 1AM in ether, 0.7 mole) in 1 L of anhydrous THF at -30° C. under argon atmosphere in a 5 L round bottom flask. After this addition was completed, the cooling bath was removed and the solution was allowed to stand at room temperature for 4 hours. The solution was cooled again at -30° C. and a solution of ketone 3 (75 g, 0.2 mole) in 2.5 L of anhydrous TTh was added dropwise. After completing this addition, the cooling bath was removed and the mixture was allowed to stand at room temperature for 16 h. To this mixture, 100 mL of brine were added and the solution was diluted with ethyl acetate, washed with brine and dried with anhydrous MgSO4. The solvent was then evaporated and crystallization took place after a short period of time. Hexane was added to complete the precipitation. The solid was then filtered and washed with hexane. The compound 4 was used in the next step without further purification. Yield: 95.8 g (90%). 1H NMR δ (CDCl3, 300 MHz, TMS): 0.82 (s, 3H, 18CH3), 1.01 (s, 3H, 19CH3), 2.52 (t, 2H, J=6.8 Hz, CCCH2), 3.15-3.44 (m, 4H, SCH2), 3.50-3.56 (m, 2H, CH2OTHP), 3.75-3.90 (m, 2H, pyran OCH2), 4.66 (s, 1H, OCHO), 5.47 (s, 1H, C-4H.

reactant | 2-(3-Butynyloxy)tetrahydro-2H-pyran | 0.729 mole, 112.5 g | C(CC#C)OC1OCCCC1 | C9H14O2
reactant | methyllithium | 0.7 mole, 500 mL | C[Li]
reactant | THF | 1 L | C1CCOC1 | C4H8O
product | Tetrahydropyranyl Ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
